US04638067
A solution of 0.32 g (0.76 mmol) ethyl 7-[2-(acetamidomethyl)-4-thiazolyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate in 3 ml 6N hydrochloric acid was stirred at reflux three hours. The mixture was evaporated to dryness and the resulting solid was suspended in 5 ml water and dissolved by addition of 1N sodium hydroxide to pH 11. After filtration the product was precipitated by addition of 1N hydrochloric acid to pH 6.2, filtered, washed with water and dried to afford 0.22 g 7-[2-aminomethyl)-4-thiazolyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, mp 249°-254° C. (dec).

reactant | ethyl 7-[2-(acetamidomethyl)-4-thiazolyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 0.76 mmol, 0.32 g | C(C)(=O)NCC=1SC=C(N1)C1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)OCC)=O)F | C20H20FN3O4S
solvent | hydrochloric acid | 6N, 3 ml | Cl | ClH
product | 1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | C(C)N1C=C(C(C2=CC(=CC=C12)F)=O)C(=O)O | C12H10FNO3
